US04307106
Furfurylamine hydrochloride (33.46 grams, 0.250 moles) and ammonium thiocyanate (38.14 grams, 0.501 moles) in 71 ml bromobenzene were heated under nitrogen at reflux temperature for 20 minutes and then cooled to room temperature. The reaction mixture was mixed with a solution of 125 ml water and 100 ml ethyl acetate and left at room temperature overnight. The mixture was then diluted to give 500 ml ethyl acetate and 350 ml water and the aqueous layer separated. The organic layer was washed with water and dried over sodium sulfate. After filtration, the organic layer was evaporated to dryness and bromobenzene removed under vacuum. The resulting solids were ground in a mortar and pestle and the fine particles stirred in diethyl ether to remove residual bromobenzene. The solids were then filtered, washed with diethyl ether and vacuum dried over phosphorus pentoxide, yielding 12.06 grams (30%) of N-furfurylthiourea, m.p. 80°-91° C. Recrystallization from benzene gave yellow needles, m.p. 98°-100° C.

reactant | Furfurylamine hydrochloride | 0.250 moles, 33.46 grams | Cl.C(C1=CC=CO1)N
reactant | ammonium thiocyanate | 0.501 moles, 38.14 grams | [S-]C#N.[NH4+]
reactant | water | 125 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 350 ml | O | H2O
solvent | bromobenzene | 71 ml | BrC1=CC=CC=C1 | C6H5Br
product | N-furfurylthiourea | 12.06 grams, 30% | C(C1=CC=CO1)NC(=S)N | C6H8N2OS
